US06528525B1
(c) (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one
In a similar manner to that described in Reference example 1(d), a reaction was carried out using (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one (25.0 g), which is the product of Reference example 29(b) and palladium on carbon (5%, 2.50 g) and the reaction mixture was treated to afford the desired compound (19.1 g) as a mass of foam.

reactant | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one | 25.0 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)C)=O | C35H35NO6
catalyst | palladium on carbon | 2.50 g | [Pd] | Pd
product | (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one | 19.1 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C=C1)O)O)OC1=CC=C(C=C1)C(C)C)=O | C28H29NO6
